US08067445B2
Step 2: (2′-{[(2-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
(2′-{[(2-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.27 mmol) in THF (1 mL) and MeOH (0.8 mL) was hydrolyzed with 1N aqueous NaOH (0.7 mL) for 1 hour. The mixture was acidified with 1N aqueous HCl and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound. M+H is 536.

reactant | (2′-{[(2-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.27 mmol | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=C(C=CC=C1)Cl)=O | C28H27ClF3NO5
reactant | NaOH | 1N, 0.7 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.8 mL | CO | CH4O
product | (2′-{[(2-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | ClC1=C(COC(=O)N(CC)CC2=C(C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2OC)CC(=O)O)C=CC=C1 | C27H25ClF3NO5
